US07875367B2
8,9-dihydro-4H-cyclopenta[def]phenanthrene (4.0 g, 20.8 mmol) was put into a 250 ml round bottom flask (RBF), and CCl4 (100 ml) was added thereto. The reaction mixture was cooled to 0° C., and Br2 (3.3 g, 20.8 mmol) was dropwise added thereto. The reaction solution was incubated for 4 hours and a 10% NaSO3 solution was added thereto. The organic phase was separated, concentrated under a reduced pressure, and recrystallized from n-hexane to obtain 4.7 g of a 2-bromo-8,9-dihydro-4H-cyclopenta[def]phenanthrene compound.

reactant | 8,9-dihydro-4H-cyclopenta[def]phenanthrene | 20.8 mmol, 4.0 g | C1=CC=C2C=3C=4C(=CC=CC4CCC13)C2 | C15H12
reactant | Br2 | 20.8 mmol, 3.3 g | BrBr | Br2
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-8,9-dihydro-4H-cyclopenta[def]phenanthrene | 4.7 g | BrC1=CC=2CCC=3C=CC=C4C3C2C(=C1)C4 | C15H11Br
